US06005010
Dimethyl 4-nitrophthalate was reacted in DMF with sodium 4-methoxyphenoxide to give dimethyl 4-(4-methoxyphenoxy)phthalate in analogy to a process known from the literature (J. Org. Chem. Vol. 42, No. 21, 1977, 3419-3425). After standard working up and chromatography using hexane/EA, the diester was isolated as a brownish oil.

reactant | Dimethyl 4-nitrophthalate | [N+](=O)([O-])C=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C10H9NO6
reactant | sodium 4-methoxyphenoxide | COC1=CC=C([O-])C=C1.[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | dimethyl 4-(4-methoxyphenoxy)phthalate | COC1=CC=C(OC=2C=C(C(C(=O)OC)=CC2)C(=O)OC)C=C1 | C17H16O6
